US08975443B2
A flask was charged with 4.0 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one (8.88 mmol, 1.0 equiv) 4.6 g of neopentyl glycol (44 mmol, 5 equiv) and 0.15 g of p-toluenesulfonic acid monohydrate (0.89 mmol, 0.1 equiv). The atmosphere was purged with argon and the flask was charged with 80 mL of argon-sparged toluene. The reaction flask was equipped with a Dean-Stark trap and warmed to an internal temperature of 110° C. for 2 h under argon atmosphere. The distilled toluene was collected in the Dean-Stark trap. The reaction mixture was cooled to room temperature under argon gas. The reaction was quenched with 1.7 mL of aqueous 10 wt % sodium carbonate solution and partitioned between 65 mL of heptane and 35 mL of water. The organic solution was washed three times with 20 mL portions of water and concentrated in vacuo with gentle heating. Anhydrous ethanol (78 g) was added to the crystalline residue and removed in vacuo with gentle heating. Anhydrous ethanol (24 mL) was added to the unpurified solids and the solids slurry was warmed to 80° C., held for an hour, and cooled to room temperature. The product was isolated by filtration, washed with ethanol and dried in vacuo at 50° C. to give 4.3 g of 3,3,8,8,10,10-hexamethyl-9-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,5-dioxa-9-phosphaspiro[5.5]undecane (98 area % by HPLC, 88% yield).

reactant | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one | 8.88 mmol, 4.0 g, 1.0 equiv | CC1(P(C(CC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H43OP
reactant | neopentyl glycol | 44 mmol, 5 equiv | OCC(C)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 0.89 mmol, 0.15 g, 0.1 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3,3,8,8,10,10-hexamethyl-9-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,5-dioxa-9-phosphaspiro[5.5]undecane | 4.3 g, 88% yield | CC1(COC2(OC1)CC(P(C(C2)(C)C)C2=C(C=CC=C2)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)(C)C)C | C35H53O2P
